scheMAGIC Simulator document 82be5fb4fe6f22d0
* document-hash 82be5fb4fe6f22d0
V1 battery 0 DC 5 $ component:c1
R_FUSE_c2 battery load 50m $ component:c2
R3 load 0 1k $ component:c3
.save all v1#branch @r_fuse_c2[i] @r3[i]
.op
.end
